US07834019B2
1) Production of 1-(6-bromopyridin-2-yl)-2-methylpropan-2-ol
In a nitrogen atmosphere, 400 mL of tetrahydrofuran containing 31 mL of diisopropylamine was cooled in a dry ice/acetone bath, and 82.7 mL of 2.66 M n-butyllithium/hexane solution was added thereto, and 50 mL of tetrahydrofuran containing 34.4 g of 6-bromopicoline was dropwise added thereto at −70° C. or lower. After the addition, 29.4 mL of acetone was added thereto at −60° C. or lower. After stirred for 35 minutes, water was added to the reaction liquid, and the organic solvent was concentrated under reduced pressure. This was extracted with diethyl ether, washed with saturated saline water, and dried with anhydrous magnesium sulfate. After concentrated under reduced pressure, the residue was purified through distillation to obtain 27.60 g of the entitled compound as a colorless oily substance.

reactant | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 2.66 M, 82.7 mL | C(CCC)[Li].CCCCCC
reactant | tetrahydrofuran | 50 mL, 34.4 g | O1CCCC1 | C4H8O
reactant | 6-bromopicoline | BrC1=CC=CC(=N1)C | C6H6BrN
solvent | water | O | H2O
solvent | acetone | 29.4 mL | CC(=O)C | C3H6O
product | 1-(6-bromopyridin-2-yl)-2-methylpropan-2-ol | 27.60 g | BrC1=CC=CC(=N1)CC(C)(O)C | C9H12BrNO
